US05852017
f) 7-Amino-1-(ethoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione
84.3 g (0.26 mol) of 6-chloro-1-(ethoxy-carbonylmethyl)-7-nitro-2,3(1H,4H)-quinoxalinedione were suspended in 1.5 1 of isopropanol, and 194.2 g (3.1 mol) of ammonium formate dissolved in 500 ml of water, and 8.5 g of palladium/carbon (10%) were successively added. The mixture was heated at 75° C. for 4 h and, after cooling, filtered, and the filter cake was extracted three times with 800 ml of dimethylformamide. The combined dimethylformamide phases were concentrated under reduced pressure, and the residue was washed with water to yield 53.2 g (79%) of the product.

reactant | 6-chloro-1-(ethoxy-carbonylmethyl)-7-nitro-2,3(1H,4H)-quinoxalinedione | 0.26 mol, 84.3 g | ClC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])CC(=O)OCC)=O)=O | C12H10ClN3O6
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | ammonium formate | 3.1 mol, 194.2 g | C(=O)[O-].[NH4+]
solvent | water | 500 ml | O | H2O
catalyst | palladium/carbon | 8.5 g | [Pd] | Pd
product | 7-Amino-1-(ethoxycarbonylmethyl)-2,3(1H,4H)-quinoxalinedione | 53.2 g, 79% | NC1=CC=C2NC(C(N(C2=C1)CC(=O)OCC)=O)=O | C12H13N3O4
